US08664220B2
Step 1: 2-[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-2-methyl-propionic acid ethyl ester
Prepared according to the procedure described in Example 42, Step 2, using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester and 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C15H17BrN2O3
reactant | 2-methyl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propionic acid ethyl ester | C(C)OC(C(C)(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C18H27BO4
product | 2-[4′-(4-tert-Butoxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)(C)C)=O | C27H32N2O5
